US06833370B1
tert-butyl 1-(6-chloro-3-pyridinyl)-4-piperidinylcarbamate
tert-butyl 4-piperidinylcarbamate (0.30 g, 1.50 mmol; Astatech) and 2-chloro-5-iodopyridine (0.287 g, 1.50 mmol; Aldrich) were processed according to the procedure of Example 1A to provide the title compound as a yellow oil (0.202 g, 43%). (DCI/NH3) m/Z 312 (M+H)+.

reactant | tert-butyl 4-piperidinylcarbamate | 1.50 mmol, 0.30 g | N1CCC(CC1)NC(OC(C)(C)C)=O | C10H20N2O2
reactant | 2-chloro-5-iodopyridine | 1.50 mmol, 0.287 g | ClC1=NC=C(C=C1)I | C5H3ClIN
product | tert-butyl 1-(6-chloro-3-pyridinyl)-4-piperidinylcarbamate | 0.202 g, 43% | ClC1=CC=C(C=N1)N1CCC(CC1)NC(OC(C)(C)C)=O | C15H22ClN3O2
